US07008950B1
3-(4-Isopropylphenyl)-4,6,7-trimethylspiro[benzofuran-2(3H),4′-piperidine]-5-ol hydrochloride
To a solution of 1′-benzyl-3-(4-isopropylphenyl)-4,6,7-trimethylspiro[benzofuran-2(3H),4′-piperidine]-5-ol (3.51 g, 7.70 mmol) and triethylamine (1.1 mL, 7.9 mmol) in chloroform (40 mL) α-chloroethyl chloroformate (2.30 g, 16.1 mmol) was added at 0° C. The mixture was refluxed for 1 hour and concentrated under reduced pressure. The residue was refluxed in methanol (20 mL) for 1 hour and concentrated under reduced pressure. The residue was crystallized from ethanol-ethyl acetate to obtain the title compound (2.80 g, yield 90%).

reactant | 1′-benzyl-3-(4-isopropylphenyl)-4,6,7-trimethylspiro[benzofuran-2(3H),4′-piperidine]-5-ol | 7.70 mmol, 3.51 g | C(C1=CC=CC=C1)N1CCC2(CC1)OC1=C(C2C2=CC=C(C=C2)C(C)C)C(=C(C(=C1C)C)O)C | C31H37NO2
reactant | triethylamine | 7.9 mmol, 1.1 mL | C(C)N(CC)CC | C6H15N
reactant | chloroform | 16.1 mmol, 40 mL, 2.30 g | C(Cl)(Cl)Cl | CHCl3
product | 3-(4-Isopropylphenyl)-4,6,7-trimethylspiro[benzofuran-2(3H),4′-piperidine]-5-ol hydrochloride | 2.80 g, yield 90% | Cl.C(C)(C)C1=CC=C(C=C1)C1C2=C(OC13CCNCC3)C(=C(C(=C2C)O)C)C | InChI=1S/C24H31NO2.ClH/c1-14(2)18-6-8-19(9-7-18)21-20-17(5)22(26)15(3)16(4)23(20)27-24(21)10-12-25-13-11-24;/h6-9,14,21,25-26H,10-13H2,1-5H3;1H
